US08957203B2
Step 1: Preparation of (2R,6S,7R,9R,13aS,14aR,16aS,Z)-6-amino-N-(1-fluorocyclopropylsulfonyl)-2-(6-methoxyisoquinolin-1-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxamide hydrochloride
A solution of tert-butyl ((2R,6S,7R,9R,13aS,14aR,16aS,Z)-14a-(((1-fluorocyclopropyl)sulfonyl)carbamoyl)-2-((6-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate (30 mg, 0.039 mmol) in 4M HCl in dioxane (5 ml 4M solution) was stirred at room temperature for 2 h. The solvent was evaporated under reduced pressure to get crude compound (23 mg, 90%) as brown solid. The crude compound was washed with diethyl ether and taken to the next step without further purification. MS: MS m/z 772.8.0(M+−36).

reactant | tert-butyl ((2R,6S,7R,9R,13aS,14aR,16aS,Z)-14a-(((1-fluorocyclopropyl)sulfonyl)carbamoyl)-2-((6-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | 0.039 mmol, 30 mg | FC1(CC1)S(=O)(=O)NC(=O)[C@]12NC([C@H]3N(C([C@H]([C@@H](C[C@@H](CC\C=C/[C@@H]1C2)C)C)NC(OC(C)(C)C)=O)=O)C[C@@H](C3)OC3=NC=CC2=CC(=CC=C32)OC)=O | C38H50FN5O9S
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 4M, 5 ml | O1CCOCC1 | C4H8O2
product | (2R,6S,7R,9R,13aS,14aR,16aS,Z)-6-amino-N-(1-fluorocyclopropylsulfonyl)-2-(6-methoxyisoquinolin-1-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxamide hydrochloride | 23 mg, 90% | Cl.N[C@H]1[C@@H](C[C@@H](CC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC3=NC=CC1=CC(=CC=C31)OC)=O)(C2)C(=O)NS(=O)(=O)C2(CC2)F)C)C | InChI=1S/C33H42FN5O7S.ClH/c1-19-6-4-5-7-22-17-33(22,31(42)38-47(43,44)32(34)11-12-32)37-28(40)26-16-24(18-39(26)30(41)27(35)20(2)14-19)46-29-25-9-8-23(45-3)15-21(25)10-13-36-29;/h5,7-10,13,15,19-20,22,24,26-27H,4,6,11-12,14,16-18,35H2,1-3H3,(H,37,40)(H,38,42);1H/b7-5-;/t19-,20-,22-,24-,26+,27+,33-;/m1./s1
